US07417060B2
To a solution of methyl 3-(acetylamino)-4′-[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-4-biphenylcarboxylate in ethyl acetate (6 ml) was added hydrogen chloride ethyl acetate solution (4N, 2 ml) and stirred for 30 minutes at room temperature. The mixture was poured into sodium hydroxide aqueous solution (1N) and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated to give methyl 3-(acetylamino)-4′-[2-[benzyl[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-4-biphenylcarboxylate (177 mg).

reactant | methyl 3-(acetylamino)-4′-[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-4-biphenylcarboxylate | C(C)(=O)NC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)CCN(C[C@H](OC1OCCCC1)C1=CC=CC=C1)CC1=CC=CC=C1 | C38H42N2O5
reactant | hydrogen chloride ethyl acetate | 4N, 2 ml | C(C)OC(C)=O.Cl
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(acetylamino)-4′-[2-[benzyl[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-4-biphenylcarboxylate | 177 mg | C(C)(=O)NC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)CCN(C[C@@H](C1=CC=CC=C1)O)CC1=CC=CC=C1 | C33H34N2O4
